US08476449B2
5-Formyl-2-furanboronic acid (676 mg, 4.8 mmol) and 3-bromoiodobenzene (1132 mg, 4 mmol) were dissolved in 1,2-dimethoxyethane (30 mL), tetrakis(triphenylphosphine)palladium (228 mg, 0.2 mmol) was added thereto, 2 mol/L sodium carbonate (9.6 mL) was further added thereto, and the mixture was heated to reflux for 2 hours while stirring. After the reaction was completed water (20 mL) was added thereto, and extraction with ethyl acetate (20 mL×2) was carried out. The organic layer was washed with saturated brine, water was removed using anhydrous sodium sulfate, the solvent was then removed by evaporation under reduced pressure, and the residue was subjected to silica gel column chromatography using ethyl acetate/hexane (3/7 (volume ratio)) as an eluent, to give 5-(3-bromophenyl)furan-2-carbaldehyde in a yield of 306 mg (yield 25.9%).

reactant | 5-Formyl-2-furanboronic acid | 4.8 mmol, 676 mg | C(=O)C1=CC=C(O1)B(O)O | C5H5BO4
reactant | 3-bromoiodobenzene | 4 mmol, 1132 mg | BrC=1C=C(C=CC1)I | C6H4BrI
reactant | sodium carbonate | 2 mol/L, 9.6 mL | C([O-])([O-])=O.[Na+].[Na+]
reactant | water | 20 mL | O | H2O
solvent | 1,2-dimethoxyethane | 30 mL | COCCOC | C4H10O2
catalyst | tetrakis(triphenylphosphine)palladium | 0.2 mmol, 228 mg | C=1C=CC(=CC1)[P](C=2C=CC=CC2)(C=3C=CC=CC3)[Pd]([P](C=4C=CC=CC4)(C=5C=CC=CC5)C=6C=CC=CC6)([P](C=7C=CC=CC7)(C=8C=CC=CC8)C=9C=CC=CC9)[P](C=1C=CC=CC1)(C=1C=CC=CC1)C=1C=CC=CC1
product | 5-(3-bromophenyl)furan-2-carbaldehyde | yield 25.9% | BrC=1C=C(C=CC1)C1=CC=C(O1)C=O | C11H7BrO2
